US05574046
Benzofuran-2-yl-3-[1-(phenylmethyl)-4-piperidinyl]-1-propanone
A solution of benzofuran-2-yl 2-[1-(phenylmethyl)-4-piperidinyl]vinyl ketone (410 mg) in a mixture of ethanol (70 ml) and ethyl acetate (40 ml) was treated with platinum oxide (80 mg) and hydrogenated at 45 psi for 1 hour. The mixture was filtered through Celite® and the filtrate was concentrated to dryness to give an off-white solid which was recrystallized from ethyl acetate to give 162 mg of white crystals.

reactant | benzofuran-2-yl 2-[1-(phenylmethyl)-4-piperidinyl]vinyl ketone | 410 mg | C1(=CC=CC=C1)CN1CCC(CC1)C=CC(=O)C=1OC2=C(C1)C=CC=C2 | C23H23NO2
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 80 mg | [Pt]=O
product | Benzofuran-2-yl-3-[1-(phenylmethyl)-4-piperidinyl]-1-propanone | 162 mg | O1C(=CC2=C1C=CC=C2)C(CCC2CCN(CC2)CC2=CC=CC=C2)=O | C23H25NO2
